US06509505B1
Preparation of 2,6-bis(2,4,5-Trimethylphenyl)-4-phenylphosphabenzene
2.1 g (4.4 mmol) of 2,6-bis(2,4,5-trimethylphenyl)-4-phenylpyrylium tetrafluoroborate in 150 ml of n-butanol were used as starting material. The autoclave product obtained after the reaction with PH3 was evaporated to about 50 ml under reduced pressure at about 80° C. The solid which precipitated was filtered off with suction, washed with n-pentane and subsequently dissolved in toluene. The toluene solution was then washed with water until the aqueous phase was neutral. After removing the solvent and washing with a little n-pentane, the residue was dissolved in dichloromethane. The resulting solution was diluted with methanol and then evaporated under reduced pressure at 30° C. until a solid precipitated. The solid was filtered off with suction, washed with a little n-pentane and subsequently dried in a high vacuum. Yield: 0.8 g (45%) of light-yellow solid.

reactant | 2,6-bis(2,4,5-trimethylphenyl)-4-phenylpyrylium tetrafluoroborate | 4.4 mmol, 2.1 g | F[B-](F)(F)F.CC1=C(C=C(C(=C1)C)C)C1=[O+]C(=CC(=C1)C1=CC=CC=C1)C1=C(C=C(C(=C1)C)C)C
reactant | PH3 | P | H3P
solvent | n-butanol | 150 ml | C(CCC)O | C4H10O
product | 2,6-bis(2,4,5-Trimethylphenyl)-4-phenylphosphabenzene | CC1=C(C=C(C(=C1)C)C)C1=PC(=CC(=C1)C1=CC=CC=C1)C1=C(C=C(C(=C1)C)C)C | C29H29P
